US04563305
Preparation of (D)Phe-Pro-Arg-benzylamide
(D)Phe-Pro-Arg-3-iodo-benzylamide, 10 mg, was dehalogenated as described in Example 9, Step H, using hydrogen gas instead of tritium gas.

reactant | (D)Phe-Pro-Arg 3-iodo-benzylamide | N[C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCC1.IC=1C=C(C[NH-])C=CC1
reactant | hydrogen | [H][H] | H2
product | (D)Phe-Pro-Arg benzylamide | N[C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCC1.C(C1=CC=CC=C1)[NH-] | InChI=1S/C20H30N6O4.C7H8N/c21-14(12-13-6-2-1-3-7-13)18(28)26-11-5-9-16(26)17(27)25-15(19(29)30)8-4-10-24-20(22)23;8-6-7-4-2-1-3-5-7/h1-3,6-7,14-16H,4-5,8-12,21H2,(H,25,27)(H,29,30)(H4,22,23,24);1-5,8H,6H2/q;-1/t14-,15+,16+;/m1./s1
